US04197306
TRIPHENYLTHIAZOLE (COMPOUND NO. 6)
Thiobenzamide (13.7 g, 0.10 mole) and desyl chloride (23.1 g, 0.10 mole) are heated under reflux in isopropyl alcohol (100 ml) for three hours. When the reaction mixture is cooled, the white solid precipitate formed is filtered off, washed twice with isopropyl alcohol, and dried. The yield of triphenylthiazole, m.p. 84°-85.5° C., is 21.5 g or 69%.

reactant | Thiobenzamide | 0.10 mole, 13.7 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | desyl chloride | 0.10 mole, 23.1 g | C1(=CC=CC=C1)C(=O)C(C1=CC=CC=C1)Cl | C14H11ClO
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | TRIPHENYLTHIAZOLE | C1(=CC=CC=C1)C1=C(N=C(S1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H15NS
